US07226951B2
6-Hydroxy-2,4,4-trimethyl-3,4-dihydro-2H-naphthalen-1-one (Intermediate 195)
A solution 6-methoxy-2,4,4-trimethyl-3,4-dihydro-2H-naphthalen-1-one (described in Journal of Pharmaceutival Sciences, 1970, 59 (6), p 869–870, Floyd et al. incorporated herein by reference; 1.2 g, 5.5 mmol) and sodium cyanide (2 g, 41 mmol) in anhydrous dimethylsulfoxide (15 mL) was heated at 230° C. for 24 h under argon. The reaction mixture was then cooled to ambient temperature, poured into ice and acidified (Caution! Hydrogen cyanide evolution!) with dilute hydrochloric acid and extracted with ethyl acetate (×2). The combined organic extract was washed with brine (×1), dried over anhydrous sodium sulfate, filtered and evaporated to afford the title compound, which was used as such for the next step (1 g, 89%).

reactant | 6-methoxy-2,4,4-trimethyl-3,4-dihydro-2H-naphthalen-1-one | COC=1C=C2C(CC(C(C2=CC1)=O)C)(C)C | C14H18O2
reactant | sodium cyanide | 41 mmol, 2 g | [C-]#N.[Na+]
reactant | Hydrogen cyanide | C#N | CHN
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 6-Hydroxy-2,4,4-trimethyl-3,4-dihydro-2H-naphthalen-1-one | OC=1C=C2C(CC(C(C2=CC1)=O)C)(C)C | C13H16O2
